US06127366
Step A: Preparation of Pyridine-3,5-dicarboxylic acid methyl ester hydrochloride
Pyridine-3,5-dicarboxylic acid (5.00 g, 29.9 mmol) was stirred in CH3OH (100 mL), cooled in an ice bath, and treated dropwise with thionyl chloride (17.45 mL, 239.2 mmol). After 0.5 hr, the reaction mixture was refluxed for 48 hrs. Concentration to dryness gave the title compound as an off-white solid.

reactant | Pyridine-3,5-dicarboxylic acid | 29.9 mmol, 5.00 g | N1=CC(=CC(=C1)C(=O)O)C(=O)O | C7H5NO4
reactant | thionyl chloride | 239.2 mmol, 17.45 mL | S(=O)(Cl)Cl | Cl2OS
reactant | CH3OH | 100 mL | CO | CH4O
product | Pyridine-3,5-dicarboxylic acid methyl ester hydrochloride | Cl.COC(=O)C=1C=NC=C(C1)C(=O)O | InChI=1S/C8H7NO4.ClH/c1-13-8(12)6-2-5(7(10)11)3-9-4-6;/h2-4H,1H3,(H,10,11);1H
